US05095014
3-[2-Chloro-5-(trifluoromethyl)phenoxy]-N-methyl-1-azetidinecarboxamide
A stirred solution of 5.2 g (0.017 mol) of 3-(2-chloro-5-trifluoromethylphenoxy)-1-azetidinecarbonyl chloride in 20 mL of tetrahydrofuran was treated all at once with 4 g (0.05 mol) of 40% aqueous monomethylamine and stirred for 16 hr. The reaction mixture was diluted with 200 mL of water and the oil globules which separated slowly solidified on standing. Filtration yielded 4 g of crude product which was recrystallized from benzene/ligroin yielding 3.3 g (62.9%) of fine white crystalline product, mp 132°-133° C.

reactant | 3-(2-chloro-5-trifluoromethylphenoxy)-1-azetidinecarbonyl chloride | 0.017 mol, 5.2 g | ClC1=C(OC2CN(C2)C(=O)Cl)C=C(C=C1)C(F)(F)F | C11H8Cl2F3NO2
reactant | monomethylamine | 0.05 mol, 4 g | CN | CH5N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | 3-[2-Chloro-5-(trifluoromethyl)phenoxy]-N-methyl-1-azetidinecarboxamide | 4 g | ClC1=C(OC2CN(C2)C(=O)NC)C=C(C=C1)C(F)(F)F | C12H12ClF3N2O2
